US07897607B2
Methyl 3-(2-chloro-6-fluorophenyl)-2-diazo-3-oxopropionate
To a solution of 5.80 g (25.1 mmol) of methyl 3-(2-chloro-6-fluorophenyl)-3-oxopropionate in 60 mL acetonitrile was added 3.9 mL (28 mmol) of triethylamine followed by 3.05 g (25.2 mmol) of methanesulfonyl azide. The mixture was stirred at room temperature for 18 h and concentrated by rotary evaporation. The resulting solid mass was washed with ethyl acetate/hexanes and the washings were filtered through a plug of silica gel. The filtrate was concentrated to give 4.90 g (76%) of the title compound as a light yellow solid.

reactant | methyl 3-(2-chloro-6-fluorophenyl)-3-oxopropionate | 25.1 mmol, 5.80 g | ClC1=C(C(=CC=C1)F)C(CC(=O)OC)=O | C10H8ClFO3
reactant | triethylamine | 28 mmol, 3.9 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl azide | 25.2 mmol, 3.05 g | CS(=O)(=O)N=[N+]=[N-] | CH3N3O2S
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | Methyl 3-(2-chloro-6-fluorophenyl)-2-diazo-3-oxopropionate | 4.90 g, 76% | ClC1=C(C(=CC=C1)F)C(C(C(=O)OC)=[N+]=[N-])=O | C10H6ClFN2O3
